US06552022B1
5′-Chloro-2′-methyl-4-trifluoromethyl-biphenyl
To a solution of 2-bromo-4-chloro-toluene (20.5 g) in toluene (100 mL) was added Pd(PPh3)4 (1 g) and the mixture was stirred at room temperature under N2 for 0.25 hours. A 2M solution of Na2CO3 (100 mL) was then added, followed by the dropwise addition of 4-trifluoromethylphenyl boronic acid (19 g) in MeOH (100 mL). The resulting mixture was heated under reflux for 48 hours. The mixture was then cooled to room temperature and the phases were separated. The organic layer was then dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography eluting with petroleum ether/AcOEt (90/10) to give the title compound (25.3 g) as a colorless liquid.

reactant | 2-bromo-4-chloro-toluene | 20.5 g | BrC1=C(C=CC(=C1)Cl)C | C7H6BrCl
reactant | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-trifluoromethylphenyl boronic acid | 19 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd(PPh3)4 | 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5′-Chloro-2′-methyl-4-trifluoromethyl-biphenyl | 25.3 g | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C(F)(F)F)C | C14H10ClF3
